US06943183B2
1. 1-(3-Chlorophenyl)-7-methoxy-1,2,3,4-tetrahydronaphthol
4-(3-Chlorophenyl)-6-methoxy-1-tetralone (0.85 g, 3 mmol) is dissolved in DMSO (10 mL). Crushed NaCN (0.73 g, 15 mmol) is added, and the reaction is heated at 180° C. overnight. The reaction is then poured into water (70 mL) and acidified to pH 2 using concentrated HCl. The resulting brown solid (0.8 g, 100% yield) is filtered and dried in a vacuum oven at 50° C. for 2 hours.

reactant | 4-(3-Chlorophenyl)-6-methoxy-1-tetralone | 3 mmol, 0.85 g | ClC=1C=C(C=CC1)C1CCC(C2=CC=C(C=C12)OC)=O | C17H15ClO2
reactant | NaCN | 15 mmol, 0.73 g | [C-]#N.[Na+]
reactant | water | 70 mL | O | H2O
reactant | HCl | Cl | ClH
solvent | DMSO | 10 mL | CS(=O)C | C2H6OS
product | 1-(3-Chlorophenyl)-7-methoxy-1,2,3,4-tetrahydronaphthol | 0.8 g, 100% yield | ClC=1C=C(C=CC1)C1(CCCC2=CC=C(C=C12)OC)O | C17H17ClO2
